US07728029B2
tert-Butyl-5-pyrrolidin-1-yl-1H-pyrazole-4-carboxylic acid adamantan-2-ylamide
Heating a mixture of 1-tert-butyl-5-chloro-1H-pyrazole-4-carboxylic acid adamantan-2-ylamide (100 mg; 0.30 mmol) and pyrrolidine (0.25 mL; 3.0 mmol) under microwave irradiation according to the procedure described in Example 37, Step 5 provided after purification by reverse phase HPLC, 1-tert-butyl-5-piperidin-1-yl-1H-pyrazole-4-carboxylic acid adamantan-2-ylamide (14 mg, 16%) as an white solid. ES-HRMS m/e calcd for C22H34N4O (M+H+) 371.2806, found 371.2801.

reactant | 1-tert-butyl-5-chloro-1H-pyrazole-4-carboxylic acid adamantan-2-ylamide | 0.30 mmol, 100 mg | C12C(C3CC(CC(C1)C3)C2)NC(=O)C=2C=NN(C2Cl)C(C)(C)C | C18H26ClN3O
reactant | pyrrolidine | 3.0 mmol, 0.25 mL | N1CCCC1 | C4H9N
product | tert-Butyl-5-pyrrolidin-1-yl-1H-pyrazole-4-carboxylic acid adamantan-2-ylamide | C12C(C3CC(CC(C1)C3)C2)NC(=O)C=2C=NN(C2N2CCCC2)C(C)(C)C | C22H34N4O
